US06407101B1
A solution of 5′-bromospiro[cylopentane-1,3′-[3H]indol]-2′(1′H)-one (2.0 g, 7.5 mmol) and tetrakis(triphenylphosphine)palladium(0) (430 mg, 0.3 mmol) in ethylene glycol dimethyl ether (50 mL) was stirred under a flow of nitrogen for 15 min. To the solution was added sequentially 1-t-butoxycarbonylpyrrole-2-boronic acid (2.1 g, 9.7 mmol) and potassium carbonate (2.4 g, 17 mmol) in water (10 mL). The mixture was heated to 80° C. for 3 h and allowed to cool. The reaction mixture was poured into water (50 mL) and extracted with ethyl acetate (3×50 mL). The organic layers were combined, washed with brine (30 mL) and dried over magnesium sulfate. The solution was filtered and concentrated in vacuo. Crystallization from 20% ethyl acetate/hexane gave 2-(1′,2′-dihydro-2′-oxospiro[cyclopentane-1,3′-[3H]indol]-5′-yl)-1H-pyrrole-1-carboxylic acid, tert-butyl ester (2.2 g, 83%) as a white powder, mp 179-180.5° C. 1H NMR (DMSO-d6, 400 MHz) δ1.30 (s, 9H), 1.75-1.98 (m, 8 H), 6.16 (dd, 1 H, J=1.8, 3.3 Hz), 6.22 (‘t’, 1 H, J=3.3, 3.3 Hz), 6.79 (d, 1 H, J=7.9 Hz), 7.08 (dd, 1 H, J=1.8, 7.9 Hz), 7.14 (‘d’, 1 H, J=1.5 Hz), 7.28 (dd, J=1.9, 3.3 Hz),10.30 (s, 1 H). MS (EI) m/z 352 [M+]. Anal. Calcd for C21H24N2O3: C, 71.57; H, 6.86; N, 7.95. Found: C, 71.08; H, 6.83; N, 7.74.

reactant | 5′-bromospiro[cylopentane-1,3′-[3H]indol]-2′(1′H)-one | 7.5 mmol, 2.0 g | BrC=1C=C2C3(C(NC2=CC1)=O)CCCC3 | C12H12BrNO
reactant | 1-t-butoxycarbonylpyrrole-2-boronic acid | 9.7 mmol, 2.1 g | C(C)(C)(C)OC(=O)N1C(=CC=C1)B(O)O | C9H14BNO4
reactant | potassium carbonate | 17 mmol, 2.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethylene glycol dimethyl ether | 50 mL | COCCOC | C4H10O2
solvent | water | 10 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.3 mmol, 430 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 50 mL | O | H2O
product | 2-(1′,2′-dihydro-2′-oxospiro[cyclopentane-1,3′-[3H]indol]-5′-yl)-1H-pyrrole-1-carboxylic acid, tert-butyl ester | 2.2 g, 83% | O=C1NC2=CC=C(C=C2C12CCCC2)C=2N(C=CC2)C(=O)OC(C)(C)C | C21H24N2O3
